US08207216B2
3-(5-Fluoro-1-methyl-1H-indol-3-yl)-4-(6-hydroxymethyl-benzofuran-3-yl)-1-methyl-pyrrole-2,5-dione (56). (See Scheme 12)
To a solution of 3-(5-fluoro-1-methyl-1H-indol-3-yl)-4-(6-hydroxymethyl-benzofuran-3-yl)-pyrrole-2,5-dione (0.035 g, 0.090 mmol) in dry THF was added sodium hydride (0.005 g, 0.011 mmol, 55% in mineral oil) and methyliodide (0.006 mL, 0.090 mmol) at 0° C. The reaction mixture was allowed to warm to room temperature and stirred for 2 h. The reaction was quenched with ice water, and extracted with EtOAc. The combined organic layers were dried over Na2SO4, evaporated in vacuo and purified by preparative TLC (methanol:dichloromethane; 5:95) to afford the product (0.012 g, 34%) as an orange solid. 1H NMR (CDCl3, 400 MHz) 3.19 (s, 3H), 3.86 (s, 3H), 4.71 (s, 2H), 6.62 (dd, J=2.3, 10.0 Hz, 1H), 6.83-6.90 (m, 3H), 7.21 (dd, J=4.3, 8.9 Hz, 1H), 7.51 (s, 1H), 7.81 (s, 1H), 8.11 (s, 1H), 13C NMR (CDCl3, 100 MHz) 23.9, 33.4, 64.8, 104.7, 106.5, 106.8, 109.6, 110.0, 110.1, 110.6, 110.8, 111.3, 121.4, 121.7, 122.1, 124.5, 126.1, 126.2, 130.8, 133.2, 134.4, 137.8, 147.0, 154.8, 156.6, 158.9, 170.9, 171.3.

reactant | 3-(5-fluoro-1-methyl-1H-indol-3-yl)-4-(6-hydroxymethyl-benzofuran-3-yl)-pyrrole-2,5-dione | 0.090 mmol, 0.035 g | FC=1C=C2C(=CN(C2=CC1)C)C=1C(NC(C1C1=COC2=C1C=CC(=C2)CO)=O)=O | C22H15FN2O4
reactant | sodium hydride | 0.011 mmol, 0.005 g | [H-].[Na+]
reactant | methyliodide | 0.090 mmol, 0.006 mL | CI | CH3I
solvent | THF | C1CCOC1 | C4H8O
product | 3-(5-Fluoro-1-methyl-1H-indol-3-yl)-4-(6-hydroxymethyl-benzofuran-3-yl)-1-methyl-pyrrole-2,5-dione | 0.012 g, 34% | FC=1C=C2C(=CN(C2=CC1)C)C=1C(N(C(C1C1=COC2=C1C=CC(=C2)CO)=O)C)=O | C23H17FN2O4
